US07741327B2
A mixture of (L)-leucine methyl ester hydrochloride (0.570 g, 3.14 mmol), (E)-4-bromo-3-(2-methyl-benzooxazol-4-yloxy)-but-2-enoic acid ethyl ester (0.970 g, 2.85 mmol) and N,N-diisopropylethylamine (0.809 g, 6.21 mmol) in acetonitrile (20 mL) in a sealed tube was heated at 100° C. for 5 h. The reaction mixture was then cooled to room temperature and ethyl acetate was added. The mixture was then filtered. The filtrate was washed successively with aqueous saturated ammonium chloride, water, and brine and then dried over sodium sulfate, filtered and concentrated in vacuo. The residue was dissolved in tetrahydrofuran (5 mL) and microwaved in an Emry Optimizer microwave reaction vessel at 160° C., for 3 h. The mixture was then cooled and concentrated in vacuo and the residue was purified by ISCO Combiflash chromatography (40 g Silicycle, 5% to 50% ethyl acetate/hexanes) to afford (S)-4-methyl-2-[4-(2-methyl-benzooxazol-4-yloxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-pentanoic acid methyl ester (0.570 g, 56%) as a brown oil.

reactant | (L)-leucine methyl ester hydrochloride | 3.14 mmol, 0.570 g | Cl.COC([C@@H](N)CC(C)C)=O
reactant | (E)-4-bromo-3-(2-methyl-benzooxazol-4-yloxy)-but-2-enoic acid ethyl ester | 2.85 mmol, 0.970 g | C(C)OC(\C=C(/CBr)\OC1=CC=CC2=C1N=C(O2)C)=O | C14H14BrNO4
reactant | N,N-diisopropylethylamine | 6.21 mmol, 0.809 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | (S)-4-methyl-2-[4-(2-methyl-benzooxazol-4-yloxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-pentanoic acid methyl ester | 0.570 g, 56% | COC([C@H](CC(C)C)N1C(C=C(C1)OC1=CC=CC2=C1N=C(O2)C)=O)=O | C19H22N2O5
